US06656971B2
3-[(2-Naphthyl)methoxy]-5-nitrobenzhydrazide.
A solution of methyl 3-[(2-naphthyl)methoxy]-5-nitrobenzoate (0.97 g, 2.87 mmol) and hydrazine hydrate (0.56 mL, 11.5 mmol) in MeOH (50 mL) was stirred under reflux overnight. Formation of solid hydrazide from a boiling mixture was observed in the morning. Mixture was cooled, solid filtered and air-dried. Greenish-white plates, yield 0.60 g (62%). 1H NMR (DMSO-d6, 400 MHz), δ: 10.15 (br.s, 1H); 8.27 (s, 1H); 8.05-7.91 (m, 6H); 7.63 (d, J=7.5 Hz, 1H); 7.59-7.52 (m, 2H); 5.48 (s, 2H); 4.66 (br.s, 2H).

reactant | methyl 3-[(2-naphthyl)methoxy]-5-nitrobenzoate | 2.87 mmol, 0.97 g | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C19H15NO5
reactant | hydrazine hydrate | 11.5 mmol, 0.56 mL | O.NN
solvent | MeOH | 50 mL | CO | CH4O
product | 3-[(2-Naphthyl)methoxy]-5-nitrobenzhydrazide | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)NN)C=C(C1)[N+](=O)[O-] | C18H15N3O4
